### PR TITLE
[Merged by Bors] - feat(RingTheory/Polynomial/HilbertPoly): `Polynomial.natDegree_hilbertPoly_of_ne_zero`

### PR DESCRIPTION
**Pull request by FMLJohn**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

The main result achieved in this pull request is `Polynomial.natDegree_hilbertPoly_of_ne_zero`, which can tell us the specific degree of any non-zero Hilbert polynomial.

### CODE REVIEW

File: Mathlib/RingTheory/Polynomial/HilbertPoly.lean [hunk 1]
```diff
@@ -58,9 +58,29 @@ equals `(n - k + d).choose d`.
...
   (d.factorial : F)⁻¹ • ((ascPochhammer F d).comp (Polynomial.X - (C (k : F)) + 1))
 
+lemma natDegree_preHilbertPoly [CharZero F] (d k : ℕ) :
+    (preHilbertPoly F d k).natDegree = d := by
+  have hne : (d ! : F) ≠ 0 := by norm_cast; positivity
+  rw [preHilbertPoly, natDegree_smul _ (inv_ne_zero hne), natDegree_comp, ascPochhammer_natDegree,
+    add_comm_sub, ← C_1, ← map_sub, natDegree_add_C, natDegree_X, mul_one]
+
+lemma coeff_preHilbertPoly_self [CharZero F] (d k : ℕ) :
+    (preHilbertPoly F d k).coeff d = (d ! : F)⁻¹ := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Polynomial/HilbertPoly.lean:68]: Is this then the leadingCoeff? Please add a lemma with that phrasing, unless you want to replace this one

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
